** Name: SimpleOpAmp54

.MACRO SimpleOpAmp54 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=30e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=12e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=14e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=334e-6
mNormalTransistorNmos6 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=334e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=158e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=158e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=94e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=94e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=144e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=135e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mNormalTransistorPmos14 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=218e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=218e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp54

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 6.04201 mW
** Area: 7612 (mu_m)^2
** Transit frequency: 37.7581 MHz
** Transit frequency with error factor: 37.7582 MHz
** Slew rate: 30.7566 V/mu_s
** Phase margin: 60.7336°
** CMRR: 142 dB
** VoutMax: 3.74001 V
** VoutMin: 0.360001 V
** VcmMax: 4.93001 V
** VcmMin: 1.02001 V


** Expected Currents: 
** NormalTransistorPmos: -270.062 muA
** NormalTransistorPmos: -30.5439 muA
** NormalTransistorPmos: -259.282 muA
** NormalTransistorPmos: -443.917 muA
** NormalTransistorPmos: -259.282 muA
** NormalTransistorPmos: -443.917 muA
** NormalTransistorNmos: 259.283 muA
** NormalTransistorNmos: 259.282 muA
** NormalTransistorNmos: 259.283 muA
** NormalTransistorNmos: 259.282 muA
** NormalTransistorNmos: 369.268 muA
** NormalTransistorNmos: 184.635 muA
** NormalTransistorNmos: 184.635 muA
** DiodeTransistorNmos: 270.063 muA
** DiodeTransistorNmos: 30.5431 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.11301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.967001  V
** inputVoltageBiasXXnXX2: 0.864001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.601001  V
** innerTransistorStack1Load2: 0.396001  V
** innerTransistorStack2Load2: 0.396001  V
** sourceGCC1: 3.89601  V
** sourceGCC2: 3.89601  V
** sourceTransconductance: 1.94201  V


.END