** Name: SimpleOpAmp75

.MACRO SimpleOpAmp75 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=8e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=230e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=30e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=7e-6 W=136e-6
mNormalTransistorNmos7 FirstStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=94e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=230e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=166e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=166e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=276e-6
mNormalTransistorPmos12 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=22e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=25e-6
mNormalTransistorPmos15 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=189e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=189e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp75

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 4.42701 mW
** Area: 7947 (mu_m)^2
** Transit frequency: 33.1751 MHz
** Transit frequency with error factor: 33.1749 MHz
** Slew rate: 26.7837 V/mu_s
** Phase margin: 62.4525°
** CMRR: 144 dB
** VoutMax: 3.76001 V
** VoutMin: 0.520001 V
** VcmMax: 4.93001 V
** VcmMin: 1.47001 V


** Expected Currents: 
** NormalTransistorPmos: -50.7989 muA
** NormalTransistorPmos: -44.7989 muA
** NormalTransistorPmos: -224.98 muA
** NormalTransistorPmos: -384.863 muA
** NormalTransistorPmos: -224.98 muA
** NormalTransistorPmos: -384.863 muA
** DiodeTransistorNmos: 224.981 muA
** NormalTransistorNmos: 224.981 muA
** NormalTransistorNmos: 224.981 muA
** NormalTransistorNmos: 319.764 muA
** NormalTransistorNmos: 319.763 muA
** NormalTransistorNmos: 159.883 muA
** NormalTransistorNmos: 159.883 muA
** DiodeTransistorNmos: 50.7981 muA
** DiodeTransistorNmos: 44.7981 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.20301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.606001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX1: 1.12601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.410001  V
** innerTransistorStack2Load2: 0.352001  V
** out1: 0.557001  V
** sourceGCC1: 3.97101  V
** sourceGCC2: 3.97101  V
** sourceTransconductance: 1.94401  V


.END