** Name: SimpleOpAmp76

.MACRO SimpleOpAmp76 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=23e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=222e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=166e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=22e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=115e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=166e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=97e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=97e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=222e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=23e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=25e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=266e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=266e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp76

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 6.00001 mW
** Area: 4987 (mu_m)^2
** Transit frequency: 42.5201 MHz
** Transit frequency with error factor: 42.5205 MHz
** Slew rate: 37.6893 V/mu_s
** Phase margin: 60.1606°
** CMRR: 142 dB
** VoutMax: 3.72001 V
** VoutMin: 0.460001 V
** VcmMax: 4.93001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorPmos: -46.6419 muA
** NormalTransistorPmos: -49.9629 muA
** NormalTransistorPmos: -317.131 muA
** NormalTransistorPmos: -541.66 muA
** NormalTransistorPmos: -317.131 muA
** NormalTransistorPmos: -541.66 muA
** DiodeTransistorNmos: 317.132 muA
** NormalTransistorNmos: 317.132 muA
** NormalTransistorNmos: 317.132 muA
** NormalTransistorNmos: 449.056 muA
** DiodeTransistorNmos: 449.055 muA
** NormalTransistorNmos: 224.529 muA
** NormalTransistorNmos: 224.529 muA
** DiodeTransistorNmos: 46.6411 muA
** NormalTransistorNmos: 46.6401 muA
** DiodeTransistorNmos: 49.9621 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.17101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.11801  V
** outSourceVoltageBiasXXnXX1: 0.559001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX2: 1.06701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 3.97701  V
** sourceGCC2: 3.97701  V
** sourceTransconductance: 1.92901  V
** inner: 0.558001  V


.END