** Name: SimpleOpAmp81

.MACRO SimpleOpAmp81 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=30e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=30e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=49e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=149e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=30e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=471e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=30e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=246e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=246e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=493e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=194e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=194e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=189e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=189e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp81

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 4.31701 mW
** Area: 5844 (mu_m)^2
** Transit frequency: 33 MHz
** Transit frequency with error factor: 33.0004 MHz
** Slew rate: 26.5393 V/mu_s
** Phase margin: 82.506°
** CMRR: 137 dB
** VoutMax: 3.85001 V
** VoutMin: 0.990001 V
** VcmMax: 5.07001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 99.2601 muA
** NormalTransistorPmos: -220.615 muA
** NormalTransistorPmos: -377.113 muA
** NormalTransistorPmos: -220.615 muA
** NormalTransistorPmos: -377.113 muA
** DiodeTransistorNmos: 220.616 muA
** NormalTransistorNmos: 220.615 muA
** NormalTransistorNmos: 220.616 muA
** DiodeTransistorNmos: 220.615 muA
** NormalTransistorNmos: 312.995 muA
** NormalTransistorNmos: 312.994 muA
** NormalTransistorNmos: 156.498 muA
** NormalTransistorNmos: 156.498 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -99.2609 muA
** DiodeTransistorPmos: -99.2599 muA


** Expected Voltages: 
** ibias: 1.16101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 4.10101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.699001  V
** innerStageBias: 0.606001  V
** innerTransistorStack1Load2: 0.697001  V
** out1: 1.39801  V
** sourceGCC1: 3.85101  V
** sourceGCC2: 3.85101  V
** sourceTransconductance: 1.94501  V


.END