** Name: SimpleOpAmp82

.MACRO SimpleOpAmp82 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=412e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=3e-6 W=133e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=133e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=63e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=107e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=133e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=3e-6 W=133e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=412e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=10e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=292e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=292e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp82

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 5.48201 mW
** Area: 5979 (mu_m)^2
** Transit frequency: 40.8371 MHz
** Transit frequency with error factor: 40.8372 MHz
** Slew rate: 34.078 V/mu_s
** Phase margin: 77.3494°
** CMRR: 146 dB
** VoutMax: 3.97001 V
** VoutMin: 0.840001 V
** VcmMax: 5.10001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 106.076 muA
** NormalTransistorPmos: -286.79 muA
** NormalTransistorPmos: -490.198 muA
** NormalTransistorPmos: -286.79 muA
** NormalTransistorPmos: -490.198 muA
** DiodeTransistorNmos: 286.791 muA
** NormalTransistorNmos: 286.79 muA
** NormalTransistorNmos: 286.791 muA
** DiodeTransistorNmos: 286.79 muA
** NormalTransistorNmos: 406.816 muA
** DiodeTransistorNmos: 406.817 muA
** NormalTransistorNmos: 203.408 muA
** NormalTransistorNmos: 203.408 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -106.075 muA
** DiodeTransistorPmos: -106.076 muA


** Expected Voltages: 
** ibias: 1.18501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.593001  V
** outSourceVoltageBiasXXpXX1: 4.12901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.681001  V
** innerTransistorStack1Load2: 0.680001  V
** out1: 1.24501  V
** sourceGCC1: 3.76301  V
** sourceGCC2: 3.76301  V
** sourceTransconductance: 1.93901  V
** inner: 0.591001  V


.END