** Name: SimpleOpAmp95

.MACRO SimpleOpAmp95 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=13e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=412e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=132e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=255e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mNormalTransistorNmos8 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=544e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=255e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=256e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=256e-6
mNormalTransistorPmos12 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=132e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=31e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=412e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp95

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 2.77401 mW
** Area: 5478 (mu_m)^2
** Transit frequency: 51.0701 MHz
** Transit frequency with error factor: 51.0702 MHz
** Slew rate: 52.9849 V/mu_s
** Phase margin: 76.2034°
** CMRR: 145 dB
** VoutMax: 3.93001 V
** VoutMin: 0.520001 V
** VcmMax: 3.62001 V
** VcmMin: 0.770001 V


** Expected Currents: 
** NormalTransistorNmos: 8.05201 muA
** NormalTransistorPmos: -49.1539 muA
** NormalTransistorNmos: 243.793 muA
** NormalTransistorNmos: 243.793 muA
** DiodeTransistorPmos: -243.792 muA
** DiodeTransistorPmos: -243.793 muA
** NormalTransistorPmos: -243.792 muA
** NormalTransistorPmos: -243.793 muA
** NormalTransistorNmos: 536.741 muA
** NormalTransistorNmos: 243.794 muA
** NormalTransistorNmos: 243.794 muA
** DiodeTransistorNmos: 49.1531 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.05299 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.01301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.25401  V
** innerTransistorStack2Load2: 4.25101  V
** out1: 3.36701  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END